US04958026
Under ice cooling, 0.18 ml of trifluoromethanesulfonic acid anhydride is added dropwise to 0.66 g of N-[2-(4-amino-3-benzyloxyphenyl)ethyl]-N,N-dipropylamine and 0.15 ml of triethylamine in 5 ml of acetone. Thereafter the mixture is stirred for 2 hours at room temperature, concentrated, shaken with water and methylene chloride, and the product obtained after concentrating the methylene chloride solution is chromatographed on silica gel with acetic acid/toluene/water (10:10:1). The purified product is recrystallized from methylene chloride, thus obtaining 0.19 g of N-[2-benzyloxy-4-(2-dipropylaminoethyl)phenyl]trifluoromethanesulfonic acid amide, mp 194°-197° C.

reactant | trifluoromethanesulfonic acid anhydride | 0.18 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(4-amino-3-benzyloxyphenyl)ethyl]-N,N-dipropylamine | 0.66 g | NC1=C(C=C(C=C1)CCN(CCC)CCC)OCC1=CC=CC=C1 | C21H30N2O
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | N-[2-benzyloxy-4-(2-dipropylaminoethyl)phenyl]trifluoromethanesulfonic acid amide | 0.19 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CCN(CCC)CCC)NS(=O)(=O)C(F)(F)F | C22H29F3N2O3S
